US05256692
(m) (S)-4-[[[4'-Fluoro-3,3',5-trimethyl[1,1'-biphenyl]-2-yl]ethynyl]thio]-3-hydroxybutanoic acid, methyl ester
A solution of (S)-4-[[[4'-fluoro-3,3',5-trimethyl[1,1'-biphenyl]-2-yl]ethynyl]thio]-3-(t-butyldiphenylsilyloxy)butanoic acid, methyl ester (1.2 g, 1.9 mM) in dry tetrahydrofuran (10 ml) was treated with glacial acetic acid (0.43 ml, 7.70 mM, 4.0 eq) followed by a 1.0M tetrabutylammonium fluoride solution in tetrahydrofuran (5.78 ml, 5.78 mM, 3.0 eq) and the dark reaction mixture stirred overnight at room temperature under argon. The mixture was diluted with 10 ml of ice water and extracted with ethyl acetate (2×). The organic phase was washed with saturated NaHCO3 and brine, then dried over anhydrous Na2SO4 and evaporated to give a dark oily residue. The crude oil was purified by flash chromatography (Merck Silica gel, 20% ethyl acetate/hexane) affording the title compound as a dark oil (0.53 g, 71.6%).

reactant | (S)-4-[[[4'-fluoro-3,3',5-trimethyl[1,1'-biphenyl]-2-yl]ethynyl]thio]-3-(t-butyldiphenylsilyloxy)butanoic acid, methyl ester | 1.9 mM, 1.2 g | FC1=C(C=C(C=C1)C1=C(C(=CC(=C1)C)C)C#CSC[C@H](CC(=O)OC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C38H41FO3SSi
reactant | acetic acid | 7.70 mM, 0.43 ml, 4.0 eq | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.78 mM, 5.78 ml, 3.0 eq | O1CCCC1 | C4H8O
product | (S)-4-[[[4'-Fluoro-3,3',5-trimethyl[1,1'-biphenyl]-2-yl]ethynyl]thio]-3-hydroxybutanoic acid, methyl ester | 0.53 g, 71.6% | FC1=C(C=C(C=C1)C1=C(C(=CC(=C1)C)C)C#CSC[C@H](CC(=O)OC)O)C | C22H23FO3S
